US03953461
c. 4-Butylamino-6-mercapto-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester
31.5 g. of 4-butylamino-6-chloro-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester (0.1 Mol.) are dissolved in 100 ml. of alcohol. 14.8 g. of sodium sulfide monohydrate and about 2 ml. of water are added and the mixture is stirred for one hour without cooling. The precipitated 4-butylamino-6-mercapto-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester is filtered off, yield 27.5 g. (88%), m.p. 140°-142° (ethanol).

reactant | 4-butylamino-6-chloro-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester | 0.1 Mol | C(C)OC(=O)C=1C(=NC(=C(C1NCCCC)[N+](=O)[O-])Cl)C | C13H18ClN3O4
reactant | sodium sulfide monohydrate | O.[S-2].[Na+].[Na+]
solvent | water | O | H2O
product | 4-Butylamino-6-mercapto-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester | C(CCC)NC1=C(C(=NC(=C1[N+](=O)[O-])S)C)C(=O)OCC | C13H19N3O4S
